US04281141
3-(imidazol-4-yl)-2-(4-fluorophenyl)-2-phenylpropanenitrile
As described in Example 1, 3.0 g. of 2-(4-fluorophenyl)-2-phenylacetonitrile, 1.36 g. of 50% sodium hydride and 2.17 g. of 4-chloromethylimidazole hydrochloride were mixed, and the reaction mixture was stirred at 60° C. for 3 hours and then at ambient temperature for 65 hours. The reaction mixture was then worked up as described in Example 1 to obtain 2.60 g. of the free base of the product named above, which was identified by 60 mHz nuclear magnetic resonance analysis in CDCl3 : δ10.65 (broad m, 1H); 7.37 (m, 8H); 6.88 (d, 2H, J=9 Hz); 6.65 (s, 1H), 3.70 (s, 2H).

reactant | 2-(4-fluorophenyl)-2-phenylacetonitrile | FC1=CC=C(C=C1)C(C#N)C1=CC=CC=C1 | C14H10FN
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
product | 3-(imidazol-4-yl)-2-(4-fluorophenyl)-2-phenylpropanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C18H14FN3
